* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\galvoscanner\ctrlcircuit_v2.asc
V1 V+ 0 15V
V2 V- 0 -15V
V3 NC_01 0 100m
XU1 0 N003 V+ V- Command NJM4580
R1 Command N003 47k
R2 N003 N004 47k
R3 N004 N001 {5k*(1-Size)}
R4 0 N004 {5k*Size}
R5 pos_in N001 4.7k
R6 N003 N011 100k
R7 N010 N011 {5k*(1-Offset)}
R8 N011 N015 {5k*Offset}
C1 0 N011 10n
C2 N003 Command 1n
R9 N002 Command 10k
R10 0 N002 47k
XU5 N002 N005 V+ V- Error NJM4580
R11 Error N005 47k
R12 N005 Position 10k
XU6 0 N013 V+ V- N012 NJM4580
R13 N012 N013 47k
R14 N013 Position 10k
R15 Error N008 {5k*(1-Gain)}
R16 N008 0 {5k*Gain}
R17 N012 N016 {100k*(1-LFdump)}
R18 N016 0 {100k*LFdump}
R19 N012 N024 {5k*(1-HFdump)}
R20 N024 0 {100k*HFdump}
XU7 N016 N017 V+ V- N017 NJM4580
XU8 N024 N025 V+ V- N025 NJM4580
R21 N006 N008 47k
R22 N018 N017 100k
R23 N026 N025 100k
C3 N022 N026 33n
C4 N014 N018 220n
XU9 0 N006 V+ V- N007 NJM4580
XU10 0 N014 V+ V- LFd_out NJM4580
XU11 0 N022 V+ V- N023 NJM4580
R24 N023 N022 10k
R25 LFd_out N014 10k
R26 N007 N006 75k
R27 N009 N007 10k
R28 N009 LFd_out 10k
R29 HFd_out N009 10k
C5 HFd_out N023 4.7n
XU12 0 N009 V+ V- Torque NJM4580
R30 Torque N009 4.7k
C6 Torque N009 1n
R32 + Torque 1k
R33 N019 + 150R
R34 feedback - 1k
R35 N020 out 1
C8 N019 - 2.2n
L1 out N021 30µ
R36 feedback 0 0.1
Rm1 N021 feedback 4
XU13 + - VCC VEE out lm675
C7 N020 0 220n
C9 out - 100p
XU14 N027 N029 V+ V- Position NJM4580
R31 N029 Position 100k
R37 0 N029 10k
R38 N027 N028 10k
R39 N028 N030 330
R40 feedback N028 330
C10 N027 0 220p
C11 N030 0 1n
C12 N028 0 1n
R41 N010 0 2.7k
R42 0 N015 2.7k
R43 N010 V+ 15k
R44 N015 V- 15k
V4 pos_in 0 PWL(0 0 2m 0.1m 2.01m 1 8m 1.001 8.01m -1 12m -1.01 12.01m 0)
V5 VCC 0 20
V6 VEE 0 -20
.include njm4580_2.lib
.include LM675.sub
* Position Input\n-2V to +2V
* [Size]\n5k poti
* [Offset]\n5k poti
* [Gain]\n5k poti
* [LF.Dump]\n100k poti
* [HF.Dump]\n100k poti
* Galvo
* 25mV/deg (opt)
.param Gain=0.7
.param HFdump=0.999
.param LFdump=0.9
.param Size=0.6
.param Offset=0.3
.tran 15m
.include PT1.sub
.backanno
.end
