* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\galvoscanner\sys2order.asc
V1 N001 0 PULSE(0 1 10m) AC 1
R1 in N011 12k
R2 N011 network 12k
C1 N011 0 220n
C2 network 0 220n
E1 lap 0 N001 0 laplace=169*(1/(s+145)-1/(s+992))
E2 lap2 0 N001 0 laplace=.993/((1e-3*s+1)*(6.9e-3*s+1))
V2 in 0 PULSE(1 2 0 1u 1u 16m 32m) AC 1
R4 X N010 12k
R5 N010 Y 12k
C3 N010 0 220n
C4 Y 0 220n
XU1 0 N005 N006 opamp_param_3 Vp=15 Vm=-15 Ilim=2 FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 N005 N004 {Rf/Kp}
R8 N006 N005 {Rf}
XU2 N008 N003 N004 opamp_param_3 Vp=10 Vm=-10 Ilim=2 FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R9 in N003 1k
R10 N007 N008 1k
R11 N008 0 1k
R12 N003 N004 1k
E3 X 0 N009 0 {Aext}
E4 N007 0 Y 0 1
D1 N009 N002 D
D2 0 N009 D
XU3 N002 vdc_single V=3.3
R6 N006 N009 100
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.ac oct 100 1 1meg
* laplace=(1.742e42)/(3.046e40*s+5.542e37*s**2+2.091e42)
* .tran 70m
.param Rf=100k
.param Kp=5
* .step param Kp list 1 2 4 8 200
.param Aext=10
;.step param Aext list 1 2 10
.lib EIT_sub\opamp_parametrierbar.sub
.lib EIT_sub\vdc_single.sub
.backanno
.end
