.SUBCKT AMPSIMP 1 5 7  params: POLE=30 GAIN=30000 VHIGH=4V VLOW=100mV
*               + - OUT
G1 0 4 1 5 100u
R1 4 0 {GAIN/100u}
C1 4 0 {1/(6.28*(GAIN/100u)*POLE)}
E1 2 0 4 0 1
Ro 2 7 10
Vlow 3 0 DC={VLOW}
Vhigh 8 0 DC={VHIGH}  
Dlow 3 4 DCLP
Dhigh 4 8 DCLP
.MODEL DCLP D N=0.01
.ENDS